US05834506
5-tert-Butyl-4-mercapto-2-methyl-phenol
To a round bottom flask equipped with a magnetic stirrer and condenser were added 35 g (158 mmol) of 5-tert-butyl-2-methyl-4-thiocyanato-phenol prepared in Example GGG, dithiothreitol (25.61 g, 166 mmol), EtOH (250 mL), and 0.02M KH2PO4 buffer solution (25 mL), respectively. The reaction was heated to reflux; after 2 hours, additional dithiothreitol (5.0 g, 32.4 mmol) and 0.02M KH2PO4 buffer solution (25 mL) were added. After 2 hours at reflux, the solution was cooled to room temperature and concentrated. The reaction was quenched with brine and extracted with 1:1 Et2O:hexanes. The organic layer was washed with brine, dried (MgSO4), and concentrated. The residue was submitted to column chromatography (100% CHCl3, silica gel) to yield the title compound. 1H NMR (CDCl3) δ 1.45 (s, 9 H), 2.15 (s, 3 H), 3.43 (s, 1 H), 4.56 (br s, 1 H), 6.82 (s, 1 H), 7.05 (s, 1 H).

reactant | 5-tert-butyl-2-methyl-4-thiocyanato-phenol | 158 mmol, 35 g | C(C)(C)(C)C=1C(=CC(=C(C1)O)C)SC#N | C12H15NOS
reactant | dithiothreitol | 166 mmol, 25.61 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | KH2PO4 | 0.02M, 25 mL | OP(=O)(O)[O-].[K+]
reactant | dithiothreitol | 32.4 mmol, 5.0 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | KH2PO4 | 0.02M, 25 mL | OP(=O)(O)[O-].[K+]
solvent | EtOH | 250 mL | CCO | C2H6O
product | 5-tert-Butyl-4-mercapto-2-methyl-phenol | C(C)(C)(C)C=1C(=CC(=C(C1)O)C)S | C11H16OS
